US09212190B2
A mixture of (3S)-3-(iodomethyl)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene (287 mg, 0.57 mmol, 1.00 equiv), 18-Crown-6 (190 mg, 0.72 mmol, 1.25 equiv), potassium carbonate (141 mg, 1.02 mmol, 1.78 equiv) and ethyl 2-cyanoacetate (678 mg, 5.99 mmol, 10.43 equiv) in benzene (20 mL) was stirred overnight at 80° C. under nitrogen. After cooling to room temperature, the solvent was removed under vacuum and the residue was purified by a silica gel column with DCM/MeOH (30:1-10:1) to provide 230 mg (83%) of ethyl 2-cyano-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]propanoate as a light yellow solid. MS (ES): m/z 485 [M+H]+.

reactant | (3S)-3-(iodomethyl)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene | 0.57 mmol, 287 mg, 1.00 equiv | IC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C20H26IN3O2S
reactant | 18-Crown-6 | 0.72 mmol, 190 mg, 1.25 equiv | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 1.02 mmol, 141 mg, 1.78 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-cyanoacetate | 5.99 mmol, 678 mg, 10.43 equiv | C(#N)CC(=O)OCC | C5H7NO2
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | ethyl 2-cyano-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]propanoate | 230 mg, 83% | C(#N)C(C(=O)OCC)C[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C25H32N4O4S
